US04382939
1,2,3,4-Tetrahydro-8,9-dihydroxy-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrobromide
A solution of 1,2,3,4-tetrahydro-8,9-dimethoxy-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one (5.0 g, 0.016 moles) in 40 ml of 48% aqueous hydrobromic acid is stirred at reflux for 16 hours. The mixture is cooled, and the precipitated product is filtered and washed several times with cold acetone. The product (5.7 g, mp 280° C. dec.) is used as an intermediate without additional purification.

reactant | 1,2,3,4-tetrahydro-8,9-dimethoxy-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.016 moles, 5.0 g | COC1=CC2=C(C=C1OC)C1=C(CN(CC1)CC(C)=O)C(O2)=O | C17H19NO5
reactant | hydrobromic acid | 40 ml | Br | BrH
product | 1,2,3,4-Tetrahydro-8,9-dihydroxy-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrobromide | Br.OC1=CC2=C(C=C1O)C1=C(CN(CC1)CC(C)=O)C(O2)=O | InChI=1S/C15H15NO5.BrH/c1-8(17)6-16-3-2-9-10-4-12(18)13(19)5-14(10)21-15(20)11(9)7-16;/h4-5,18-19H,2-3,6-7H2,1H3;1H
